US06180759B2
A stirred, milky solution of 25.6 g (94.5 mmole) of N-[(1,1-dimethylethoxy)carbonyl]-3-cyclohexyl-(L)-alanine, 11.2 g (104 mmole) of benzyl alcohol, and 1.15 g (9.45 mmole) of 4-dimethylaminopyridine in a mixture of 210 mL of dimethyl formamide and 150 mL of dichloromethane is cooled to 5° C., and 19.2 g of 3-N,N-dimethylaminopropylethylcarbodiimide hydrochloride is added over 5 minutes. The mixture is then warmed to ambient temperature and is stirred overnight. The reaction mixture is filtered to remove a fine precipitate, and the filtrate is concentrated in vacuo. The residue is taken up in water and extracted with ethyl acetate (3×). The combined organic solutions are washed with 0.5N aqueous citric acid and twice with water, dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting oil is subjected to high vacuum to minimize volatiles to give N-[(1,1-dimethylethoxy)carbonyl]-3-cyclohexyl-(L)-alanine phenylmethyl ester (35.3 g). MS (ion spray) m/z 362 (M+H)+.

reactant | N-[(1,1-dimethylethoxy)carbonyl]-3-cyclohexyl-(L)-alanine | 94.5 mmole, 25.6 g | CC(C)(OC(=O)N[C@@H](CC1CCCCC1)C(=O)O)C | C14H25NO4
reactant | benzyl alcohol | 104 mmole, 11.2 g | C(C1=CC=CC=C1)O | C7H8O
catalyst | 4-dimethylaminopyridine | 9.45 mmole, 1.15 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethyl formamide | 210 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N-[(1,1-dimethylethoxy)carbonyl]-3-cyclohexyl-(L)-alanine phenylmethyl ester | 35.3 g | C1(=CC=CC=C1)COC([C@@H](NC(=O)OC(C)(C)C)CC1CCCCC1)=O | C21H31NO4
